US04000302
Sequential reaction of dimethylcyanodithioimidocarbonate with 2-((2-aminoethyl)thiomethyl)-3-bromopyridine and excess ethylamine, followed by chromatographic purification on a column of silica gel with elution by ethyl acetate and final recrystallisation from ethyl acetate-petroleum ether afforded N-cyano-N'-[2-((3-bromo-2-pyridyl)methylthio)-ethyl]-N"-ethylguanidine, m.p. 123°-124°.

reactant | dimethylcyanodithioimidocarbonate | CSC(SC)=NC#N | C4H6N2S2
reactant | 2-((2-aminoethyl)thiomethyl)-3-bromopyridine | NCCSCC1=NC=CC=C1Br | C8H11BrN2S
reactant | ethylamine | C(C)N | C2H7N
product | N-cyano-N'-[2-((3-bromo-2-pyridyl)methylthio)-ethyl]-N"-ethylguanidine | C(#N)NC(=NCC)NCCSCC1=NC=CC=C1Br | C12H16BrN5S
